US07220864B2
5-(5-methoxy-3,4-dihydronaphthalen-1(2H)ylidene)pentanoic acid
To an anhydrous tetrahydrofuran (200 ml) solution of (4-carboxybutyl)triphenylphosphonium bromide (25.0 g), potassium t-butoxide (12.7 g) was added, followed by stirring at 30° C. for 1 hour. To the reaction mixture, a tetrahydrofuran (20 ml) solution of 5-methoxy-1-tetralone (5.0 g) was added, followed by stirring at room temperature overnight. The reaction mixture was added to a mixture of saturated aqueous ammonium chloride solution and ice, followed by extracting with ethyl acetate. The extract was concentrated to thereby obtain the crude title compound having the following physical data. The obtained compound was used without purification in the subsequent reaction.

reactant | (4-carboxybutyl)triphenylphosphonium bromide | 25.0 g | [Br-].C(=O)(O)CCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium t-butoxide | 12.7 g | CC(C)([O-])C.[K+]
reactant | 5-methoxy-1-tetralone | 5.0 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-(5-methoxy-3,4-dihydronaphthalen-1(2H)ylidene)pentanoic acid | COC1=C2CCCC(C2=CC=C1)=CCCCC(=O)O | C16H20O3
